US06800629B2
In 2 ml of methanol was dissolved 0.20 g of {(2R,3S)-3-(acetyloxy)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]tetrahydro-2-furanyl}methyl acetate. While cooling the solution with ice, 0.23 g of 28% methanol solution of sodium methoxide was added, and stirred for 20 minutes. Then, 1.2 ml of 1 mol/L hydrochloric acid was added to the reaction mixture, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography [eluent: chloroform:methanol=10:1] to obtain 90 mg of 4-[(4S,5R)-4-hydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide as a yellow oily product.

reactant | {(2R,3S)-3-(acetyloxy)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]tetrahydro-2-furanyl}methyl acetate | 0.20 g | C(C)(=O)OC[C@H]1OC(C[C@@H]1OC(C)=O)N1C(C(=NC=C1)C(=O)N)=O | C14H17N3O7
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 1 mol/L, 1.2 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 0.23 g | CO | CH4O
product | 4-[(4S,5R)-4-hydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide | 90 mg | O[C@H]1CC(O[C@@H]1CO)N1C(C(=NC=C1)C(=O)N)=O | C10H13N3O5
